US07662845B2
a) 4-(2-Amino-1-methoxyethyl)-biphenyl
4-Vinyl-biphenyl, 1.70 g (9.4 mmol), was dissolved in methanol (10 mL) and dichloromethane (15 mL). Bromine, 0.48 mL (9.4 mmol), dissolved in methanol (10 mL) was added over 30 minutes and TLC analysis showed complete reaction. The mixture was diluted with dichloromethane and added to an aqueous solution of sodium hydrogen sulphite and the mixture was shaken. The dichloromethane phase was washed with aqueous sodium hydrogen carbonate and water and evaporated to give 2.81 g product. The product was purified by silica gel chromatography silica gel (200 mL) with heptane/ethyl acetate (95+5) to give 1.00 g (39 %) of pure 4-(2-bromo-1-methoxy-ethyl)-biphenyl. 4-(2-Bromo-1-methoxyethyl)-biphenyl, 1.00 g (3.64 mmol), was dissolved in ethanol (20 mL) and added to a large excess of concentrated ammonia (20 mL). The mixture was heated to 100° C. in a sealed vessel for 16 hours and evaporated. Chromatography on silica gel (180 mL) with dichloromethane followed by dichloromethane/methanol/concentrated ammonia (90+10+1) gave 0.47 g (61%) of the sub-titled compound.

reactant | 4-(2-Bromo-1-methoxyethyl)-biphenyl | BrCC(OC)C1=CC=C(C=C1)C1=CC=CC=C1 | C15H15BrO
reactant | ammonia | 20 mL | N | H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(2-Amino-1-methoxyethyl)-biphenyl | 0.47 g, 61% | NCC(OC)C1=CC=C(C=C1)C1=CC=CC=C1 | C15H17NO
